US08420642B2
[3-(2-Methoxy-ethoxy)-5-phenoxy-pyridine-2-yl]-thiourea (0.24 mmol) is dissolved in DMF (1 ml) and chloro-acetaldehyde (1.1 eq., 55% in water) is added and stirred 3 hours at 100° C. After cooling to room temperature the suspension is pored into ice-water and extracted with methyl-tert.-butyl ether. The combined organic phases are washed with brine and dried over MgSO4. The solvent is removed in vacuo. [3-(2-Methoxy-ethoxy)-5-phenoxy-pyridine-2-yl]-thiazole-2-yl-amine (“A20”) is obtained after reversed phase chromatography (water/acetonitrile 0.1% TFA) as yellow solid in a yield of 45%; mp. 140.6-140.9°; HPLC (method C): 1.73 min; LC-MS (method A): 1.589 min, 344.1 (M+H+);

reactant | [3-(2-Methoxy-ethoxy)-5-phenoxy-pyridine-2-yl]-thiourea | 0.24 mmol | COCCOC=1C(=NC=C(C1)OC1=CC=CC=C1)NC(=S)N | C15H17N3O3S
reactant | chloro-acetaldehyde | 1.1 eq. | ClCC=O | C2H3ClO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [3-(2-Methoxy-ethoxy)-5-phenoxy-pyridine-2-yl]-thiazole-2-yl-amine | yield of 45% | COCCOC=1C(=NC=C(C1)OC1=CC=CC=C1)NC=1SC=CN1 | C17H17N3O3S
